US09107964B2
100 mg (0.369 mmol equivalents) of 2,2-dimethyl-5-hydroxymethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane was dissolved in 4.0 mL of pyridine and cooled to 0° C., 77.3 mg (0.406 mmol equivalents) of p-toluenesulfonyl chloride was then added thereto, and the mixture was stirred at room temperature (25° C.) for 1 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride and water were added thereto, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, then dried with anhydrous magnesium sulfate and subsequently concentrated under vacuum, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=1/1) to give 115 mg (0.270 mmol equivalents) of 2,2-dimethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane.

reactant | 2,2-dimethyl-5-hydroxymethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.369 mmol, 100 mg | CC1(OCC(CO1)(CN1C(=NC=C1)[N+](=O)[O-])CO)C | C11H17N3O5
reactant | p-toluenesulfonyl chloride | 0.406 mmol, 77.3 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-5-[(2-nitro-1H-imidazol-1-yl)methyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane | 0.270 mmol, 115 mg | CC1(OCC(CO1)(COS(=O)(=O)C1=CC=C(C=C1)C)CN1C(=NC=C1)[N+](=O)[O-])C | C18H23N3O7S
